US07423030B2
22.3. 4-(1,3-Benzodioxol-5-yl)-1-chloro-7-methoxyphthalazine
This compound is obtained according to the procedure described in 1.3. by reacting 4-(1,3-benzodioxol-5-yl)-7-methoxy-2H-phthalazin-1-one with phosphoryl chloride.

reactant | 4-(1,3-benzodioxol-5-yl)-7-methoxy-2H-phthalazin-1-one | O1COC2=C1C=CC(=C2)C2=NNC(C1=CC(=CC=C21)OC)=O | C16H12N2O4
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-(1,3-Benzodioxol-5-yl)-1-chloro-7-methoxyphthalazine | O1COC2=C1C=CC(=C2)C2=NN=C(C1=CC(=CC=C21)OC)Cl | C16H11ClN2O3
